US06235778B1
3-[5-Methyl-3-(2-(N-(2-carboxyethyl)-N-benzylaminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine
The title compound was prepared in 97% yield from 3-[5-methyl-3-(2-(N-(2-ethoxycarbonylethyl)-N-benzylaminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride as prepared in step b of Example 53, in a manner analogous to Example 27. 1H-NMR (300 MHz, DMSO-d6) δ8.19 (t, J=7.9 Hz, 2H), 7.99 (t, J=7.7 Hz, 1H), 7.88 (t, J=7.8 Hz, 1H), 7.56 (br s, 4H), 7.34 (m, 5H), 6.74 (s, 1H), 6.54 (s, 1H), 6.51 (s, 1H), 4.63 (s, 2H), 3.97 (t, J=6.2 Hz, 2H), 3.89 (t, J=6.1 Hz, 2H), 3.51 (t, J=7.4 Hz, 2H), 2.28 (t, J=7.5 Hz, 4H), 2.22 (s, 3H), 1.99 (pentet, J=6.1 Hz, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C27H32N4O9S2: 621.2 (M+H), 643.2 (M+Na). Found: 621.0, 642.9.

reactant | 3-[5-methyl-3-(2-(N-(2-ethoxycarbonylethyl)-N-benzylaminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=CC=C1)CCC(=O)OCC
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | 3-[5-Methyl-3-(2-(N-(2-carboxyethyl)-N-benzylaminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine | 97% yield | CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=CC=C1)CCC(=O)O | C27H32N4O9S2
